US07192964B2
2) 1-(1,1,3,3-tetramethylbutyl)piperidin-4-one
To 1.20 ml of tert-octylamine, 10 ml of ethanol, 10 ml of an aqueous solution containing 580 mg of potassium carbonate and 3.31 g of 1-benzyl-1-methyl-4-oxopiperidinium iodide were successively added, followed by 2 hours' heating at 100° C. under stirring. The reaction liquid was cooled to room temperature, from which ethanol was distilled off under reduced pressure and the formed solution was diluted with water, followed by extraction with chloroform. The chloroform extract was dried over anhydrous magnesium sulfate, and the solvent was distilled off. The residue was separated and purified on silica gel column chromatography (hexane/ethyl acetate=5/1) to provide 500 mg of the title compound as a colorless oily substance.

reactant | tert-octylamine | 1.20 ml | C(C)(C)(CC(C)(C)C)N | C8H19N
reactant | potassium carbonate | 580 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-benzyl-1-methyl-4-oxopiperidinium iodide | 3.31 g | [I-].C(C1=CC=CC=C1)[N+]1(CCC(CC1)=O)C
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(1,1,3,3-tetramethylbutyl)piperidin-4-one | 500 mg | CC(CC(C)(C)C)(C)N1CCC(CC1)=O | C13H25NO
